US06413991B1
Ethyl-(4-[2-amino-2-methylpropyl]phenoxy)acetate
A solution of ethyl(4-[2-methyl-2-nitropropyl]phenoxy)ethanoate (3.6 g, 12.8 mmol) in ethanol (35 mL) was charged with platinum oxide (0.72 g) and hydrogenated on a Parr shaker using 60 psi of hydrogen for 72 h at room temperature. The catalyst was filtered and the solution concentrated in vacuo. The resulting residue was purified by flash chromatography over silica gel eluting with5% MeOH/CHCl3/NH3 to provided 0.9 g (28%) of a clear oil. MS (FD+): m/z 251.

reactant | ethyl(4-[2-methyl-2-nitropropyl]phenoxy)ethanoate | 12.8 mmol, 3.6 g | C(C)OC(COC1=CC=C(C=C1)CC(C)([N+](=O)[O-])C)=O | C14H19NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 35 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.72 g | [Pt]=O
product | Ethyl-(4-[2-amino-2-methylpropyl]phenoxy)acetate | 0.9 g, 28% | C(C)OC(COC1=CC=C(C=C1)CC(C)(C)N)=O | C14H21NO3
